Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization ___

 
History of Present Illness:
___ male history of hypertension, hyperlipidemia who
presents with  worsening chest pain. He reports that over the
past week he has been experiencing intermittent chest tightness,
radiating from epigastric area up to shoulders and bilateral
arms. Also describes it as burning and then he becomes sweaty.
Symptoms started last ___ at work, first occurring
once or twice per day and then up to every 4 hours on ___
and ___ - usually lasts ___ minutes. It has worsened in
intensity. He has not had pain like this before. He notices he 
is
requiring more effort to breath through his nose, which at first
he thought was anxiety.  Reports that today experienced two
episodes that last approx 10min. He says pain is random and does
occur at rest, although would be worse with activity. Also noted
episodes of worsening hypertension, recently stopped taking his
blood pressure meds and then restarted them two days ago as he
noticed his blood pressure was increasing with the pain. His 
last
CP was yetserday and has not had any since. By the time he
arrived to the floor, CP free.

In the ED...  
- Initial vitals:  0  T: 97.4  HR: 93 BP: 157/86  RR: 18 O2: 
100%
RA 
- EKG: EKG with NSR VR 78, nonspecific ischemic changes 
including
T wave inversion
- Labs/studies notable for:  Tn 0.13->0.16->0.19
CBC wnl, notable for absolute eosniophilia
- Consults: Cardiology: Please start atorva 80 and low dose
metoprolol with hold parameters, continue heparin gtt, order 
TTE.
Page cardiology fellow if chest pain recurs. Admit to ___. 
- Patient was given:  high dose ASA, heparin gtt, atorvastatin 
80
mg 
- Vitals on transfer:  T: 98.0, BP 141/83 HR: 88, RR 18 O2: 98 
RA

 
REVIEW OF SYSTEMS:  

Denies syncope, presyncope, leg swelling, palpitations, 
orthopnea
Endorses 15 lb weight gain over last year

 
Past Medical History:
1. CARDIAC RISK FACTORS   
- Hypertension  
- Dyslipidemia  
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
 
Social History:
___
Family History:
Early coronary artery disease  Father - ___ infarction in
his ___, CHF
Paternal Grandfather  - Died of MI in his ___
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
=====================  
VITALS:  T: 98.0, BP 141/83 HR: 88, RR 18 O2: 98 RA
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
pallor or cyanosis of the oral mucosa.  
NECK: Supple no elevated JVP appreciated
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills,
lifts.  
LUNGS: CTAB 
ABDOMEN: Obsese, Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  
 
DISCHARGE PHYSICAL EXAM
======================
24 HR Data (last updated ___ @ 707)
    Temp: 97.7 (Tm 98.7), BP: 121/78 (105-124/62-87), HR: 68
(68-84), RR: 20 (___), O2 sat: 99% (97-100), O2 delivery: Ra  

Fluid Balance (last updated ___ @ 1801) 
  Last 8 hours No data found
  Last 24 hours  Total cumulative 915ml
    IN: Total 915ml, PO Amt 240ml, IV Amt Infused 675ml
    OUT:  Total 0ml, Urine Amt 0ml  

GENERAL: Well-developed, well-nourished. NAD. 
PSYCH: Mood good, consistent with affect. Appropriate.  
HEENT: NCAT. Sclera anicteric. Conjunctiva pink, no
pallor or cyanosis of the oral mucosa.  
NECK: Supple, no elevated JVP appreciated
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops.  
LUNGS: CTAB 
ABDOMEN: Obese, Soft, NTND. 
EXTREMITIES: No bilateral pitting edema, L radial access site
covered in dressing c/d/I, non tender around site, no erythema 
or
fluctuance  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  
 

 
Pertinent Results:
ADMISSION LABS
======================
___ 12:50AM BLOOD WBC-9.8 RBC-5.74 Hgb-15.7 Hct-48.9 MCV-85 
MCH-27.4 MCHC-32.1 RDW-14.0 RDWSD-43.2 Plt ___
___ 12:50AM BLOOD Neuts-57.3 ___ Monos-6.9 Eos-0.9* 
Baso-0.4 Im ___ AbsNeut-5.60 AbsLymp-3.35 AbsMono-0.68 
AbsEos-0.09 AbsBaso-0.04
___ 12:50AM BLOOD Plt ___
___ 12:32PM BLOOD ___ PTT-43.7* ___
___ 12:50AM BLOOD Glucose-96 UreaN-12 Creat-0.9 Na-136 
K-4.2 Cl-100 HCO3-25 AnGap-11
___ 12:50AM BLOOD cTropnT-0.14___ 05:00PM BLOOD Cholest-253*
___ 05:00PM BLOOD Triglyc-399* HDL-38* CHOL/HD-6.7 
LDLcalc-135*
___ 05:31PM BLOOD %HbA1c-5.5 eAG-111

PERTINENT STUDIES
======================
___ Cardiac Cath
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel. There is a 30% stenosis in the 
proximal segment.
The Diagonal, arising from the proximal segment, is a medium 
caliber vessel.

Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel. There is a 95% stenosis in the proximal and mid 
segments.
The Atrioventricular Circumflex, arising from the proximal 
segment, is a very small caliber vessel.

RCA: The Right Coronary Artery, arising from the right cusp, is 
a large caliber vessel. There is a 60% stenosis in the distal 
segment.

___ TTE:
Mild symmetric left ventricular hypertrophy with mild regional 
systolic
dysfunction with overall low-normal ejection fraction. 
Low-normal right ventricular function.
Mild-moderate mitral regurgitation in the setting of bileaflet 
straightening. Moderate tricuspid
regurgitation. Normal pulmonary artery systolic pressure.
Differential diagnosis includes coronary disease (likely RCA 
given concurrent RV hypokinesis) or
a more global process such as myocarditis.

CXR ___:
The lung volume is low, exaggerating bronchovascular markings.  
No focal 
consolidation.  No pulmonary edema.  No pleural abnormalities.  
The 
cardiomediastinal silhouette is within normal limits.  No acute 
osseous 
abnormalities. 
IMPRESSION:  
No pneumonia. 

___ ECG:
Sinus rhythm
Repol abnrm suggests ischemia, anterolateral
Compared with previous ECG, no significant change

DISCHARGE LABS
======================
___ 07:26AM BLOOD WBC-8.6 RBC-5.64 Hgb-15.4 Hct-47.8 MCV-85 
MCH-27.3 MCHC-32.2 RDW-13.7 RDWSD-42.2 Plt ___
___ 07:26AM BLOOD ___ PTT-33.6 ___
___ 07:26AM BLOOD Glucose-91 UreaN-15 Creat-0.9 Na-139 
K-4.8 Cl-102 HCO3-24 AnGap-13
___ 07:26AM BLOOD Calcium-9.4 Phos-3.5 Mg-2.2
 
Brief Hospital Course:
SUMMARY:
___ yo M with a hx of HLD, HTN who presents with chest pain, 
elevated biomarkers, and nonspecific EKG changes, c/f NSTEMI, 
with 60% stenosis in the distal RCA and 95% stenosis in LCX, now 
s/p DES to LCx. He was Plavix loaded and discharged on Plavix, 
aspirin, high-dose statin.

Transitional Issues:
[] Started aspirin 81mg (lifetime) and Plavix 75mg ___ year)
[] Ensure that patient is up-to-date on all preventative 
healthcare screenings and vaccinations
[] Recommend outpatient cardiac rehabilitation to be organized 
by outpatient cardiologist
[] Recommend close monitoring of CAD risk factors - DM, HTN, HLD
[] Recommend repeat TTE in approximately 6 weeks
[] Repeat chemistry 10 panel within 1 week of discharge to 
ensure stability of Cr
[] Please follow up on medication compliance given patient 
presentation

ACUTE ISSUES
============
#Type 1 NSTEMI: 
#s/p DES to LCX 
Risk factors of HTN, HLD. Reportedly medication noncompliant (BP 
meds "as needed") and a positive family hx as well. Presented 
with squeezing CP, nonspecific EKG changes and uptrending trops 
that peaked at ___, c/w type 1 NSTEMI. TTE with mild 
regional systolic dysfunction c/f coronary disease. Underwent 
cardiac catheterization on ___, which showed 60% stenosis and 
distal RCA and 95% stenosis in LCx, now status post DES to LCx. 
Discharged on ASA 81mg (lifetime), Plavix 75mg daily (year), 
atorvastatin 80mg daily, metoprolol succinate 25mg qd, and 
restarted on home ___. 

#HTN
As NF, held home endarbi (Azilsartan), and restarted on 
discharge. Diastolic HTN noted during admission. 

CODE: Full (confirmed)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Edarbi (azilsartan medoxomil) 40 mg oral DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
5.  Edarbi (azilsartan medoxomil) 40 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Non ST elevation Myocardial infarction
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure taking care of you at the ___ 
___! 

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you had a heart attack, or NSTEMI.

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
-  Your heart arteries were examined through a procedure called 
cardiac catheterization. It showed a blockage of one of the 
arteries. This was opened by placing a tube called a stent in 
the artery. You were given medications to prevent future 
blockages.  

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take all your medications and attend all of your 
appointments listed below. 
- It is very important to take your aspirin and clopidogrel 
(also known as Plavix) every day. 
- These two medications keep the stents in the vessels of the 
heart open and help reduce your risk of having a future heart 
attack.  
- If you stop these medications or miss ___ dose, you risk causing 
a blood clot forming in your heart stents and having another 
heart attack  
- Please do not stop taking either medication without taking to 
your heart doctor.  

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  
 
Followup Instructions:
___